US05142056
2-Hydroxy-1,3-di(N-phenylamino)propane
A mixture of 0.25 ml (2.74 mmol) of aniline, 0.107 ml (1.37 mmol) of epichlorohydrin, and 60.4 mg (1.51 mmol) of sodium hydroxide in 2 ml of dimethylformamide was heated at 110° C. for 20 h. The solvent was removed in vacuo and the residue was purified by flash chromatography using 5% ethyl acetate in chloroform to give 21 mg (6%) of the desired compound (Rf 0.63, 40% ethyl acetate in chloroform). 1H NMR (CDCl3) 3.21 (dd, J=13, 8 Hz, 2H), 3.37 (dd, J=13, 4 Hz, 2H), 4.13 (m, 1H), 6.65-6.8 (m, 6H), 7.15-7.3 (m, 6H). Mass spectrum (M+H)+ =243.

reactant | aniline | 2.74 mmol, 0.25 ml | NC1=CC=CC=C1 | C6H7N
reactant | epichlorohydrin | 1.37 mmol, 0.107 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 1.51 mmol, 60.4 mg | [OH-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-Hydroxy-1,3-di(N-phenylamino)propane | 21 mg | OC(CNC1=CC=CC=C1)CNC1=CC=CC=C1 | C15H18N2O
